US05196548
(1S, 4S)-2-(4-Toluenesulfonyl)-5-methyl-2,5-diazabicyclo-[2.2.1]heptane
A Parr bottle was charged with 3.8 g (8.56 mmol) of (2S, 4R)-1-(4-toluenesulfonyl)-2-(chloromethyl)-4-(4-toluenesulfonyloxy)-pyrrolidine and 25 ml of methanol and the bottle was then tared. Methylamine gas was bubbled through the methanol solution until 2.65 g (85.6 mmol) of the gas had dissolved. The bottle was then sealed and heated to 90° C. After heating for 16 hours the reaction was cooled and the solvent was evaporated at reduced pressure. The residual solids were then partitioned between 50 ml of methylene chloride and 40 ml of 10% aqueous sodium hydroxide solution. The layers were separated and the organic layer was washed with 30 additional ml of 10% aqueous sodium hydroxide solution, and then dried over sodium sulfate. Evaporation of the solvent under reduced pressure provided 1.73 g of the desired product which represents a 76% yield. M.P.=87°-88° C.

reactant | (2S, 4R)-1-(4-toluenesulfonyl)-2-(chloromethyl)-4-(4-toluenesulfonyloxy)-pyrrolidine | 8.56 mmol, 3.8 g | C1(=CC=C(C=C1)S(=O)(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C1=CC=C(C=C1)C)CCl)C | C19H22ClNO5S2
reactant | Methylamine | CN | CH5N
solvent | methanol | CO | CH4O
solvent | methanol | 25 ml | CO | CH4O
product | (1S, 4S)-2-(4-Toluenesulfonyl)-5-methyl-2,5-diazabicyclo-[2.2.1]heptane | 1.73 g, 76% yield | C1(=CC=C(C=C1)S(=O)(=O)N1[C@@H]2CN([C@H](C1)C2)C)C | C13H18N2O2S
